US06239151B1
A solution of 0.180 g of methoxyacetic acid in 10 ml of dimethylformamide was treated in sequence with 0.254 ml of N-ethylmorpholine, 0.270 g of 1-hydroxybenzotriazole and 0.384 g of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride. Stirring was continued at room temperature for 1 hour and then 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide was added. Stirring was continued at room temperature overnight and then the solvent was evaporated and replaced by ethyl acetate. The ethyl acetate layer was washed with 5% aqueous citric acid, 5% aqueous sodium hydrogen carbonate and brine and then dried over anhydrous magnesium sulphate. Evaporation and trituration with diethyl ether gave 0.543 g of (E)-2(R)-[1(S)-(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-(2-methoxyacetyl)-4-methylvalerohydrazide in the form of a white solid.

reactant | methoxyacetic acid | 0.180 g | COCC(=O)O | C3H6O3
reactant | N-ethylmorpholine | 0.254 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole | 0.270 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.384 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2′-isobutyl-2′-(2-methoxyacetyl)-4-methylvalerohydrazide | C(C(C)C)N(NC(CCC(C)C)=O)C(COC)=O | C13H26N2O3
